US07790751B2
A chilled solution of 4-nitrophenol (3.9 g, 28 mmol) and 1-benzyl-3-pyrrolidinol (7.5 g, 42 mmol) in THF was treated with diisopropyl azodicarboxylate (8.3 mL, 42 mmol), stirred at ambient temperatures, under nitrogen, for 45 minutes, poured into excess water and extracted with ethyl acetate. The extracts were combined, washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was twice purified by flash chromatography with 40% ethyl acetate in hexane to give 1-benzyl-3-(4-nitro-phenoxy)-pyrrolidine as a dark yellow gum, 7.2 g (86% yield), Mass spectrum (+APPI, [M+H]+) m/z 299. 1HNMR (500 MHz, DMSO-d6): δ8.11-8.15 (m, 2H), 7.23-7.29 (m, 4H), 7.17-7.21 (m, 1H), 7.02-7.07 (m, 2H), 4.97-5.02 (m, 1H), 3.56 (s, 1H), 2.80-2.84 (m, 1H), 2.61-2.71 (m, 2H), 2.28-2.41 (m, 2H), 1.73-1.79 ppm (m, 1H).

reactant | 4-nitrophenol | 28 mmol, 3.9 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1-benzyl-3-pyrrolidinol | 42 mmol, 7.5 g | C(C1=CC=CC=C1)N1CC(CC1)O | C11H15NO
reactant | diisopropyl azodicarboxylate | 42 mmol, 8.3 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 1-benzyl-3-(4-nitro-phenoxy)-pyrrolidine | 86% yield | C(C1=CC=CC=C1)N1CC(CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H18N2O3
